US07241791B2
Step 2: 4-(1-allyl-7-chloro-1H-indazole-3-yl)-3-methylphenol
Prepared according to Method D step C from 7-chloro-1-cyclopentyl-3-(4-methoxy-2-methylphenyl)-1H-indazole (0.102 g, 0.33 mmol), boron tribromide (0.19 mL, 2.0 mmol) and 1.0 mL of cyclohexene to give the product (0.099 g) as a white solid.

reactant | 7-chloro-1-cyclopentyl-3-(4-methoxy-2-methylphenyl)-1H-indazole | 0.33 mmol, 0.102 g | ClC=1C=CC=C2C(=NN(C12)C1CCCC1)C1=C(C=C(C=C1)OC)C | C20H21ClN2O
reactant | boron tribromide | 2.0 mmol, 0.19 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-(1-allyl-7-chloro-1H-indazole-3-yl)-3-methylphenol | 0.099 g | C(C=C)N1N=C(C2=CC=CC(=C12)Cl)C1=C(C=C(C=C1)O)C | C17H15ClN2O
